US08835470B2
To a mixture of 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylic acid (197 mg, 0.766 mmol) and pyridine (0.074 mL, 0.919 mmol) in dichloromethane (5 mL) at room temperature was added cyanuric fluoride (0.078 mL, 0.919 mmol). The reaction mixture was stirred at room temperature for 18 h. The mixture was diluted with dichloromethane (40 mL) and washed with an ice-cold 0.5N aqueous solution of hydrochloric acid (20 mL). The aqueous layer was extracted with dichloromethane (20 mL), and the combined organic layers were washed with ice-cold water (20 mL) and dried over anhydrous magnesium sulfate. Concentration under reduced pressure afforded 5-phenyl-4-(trifluoromethyl)isoxazole-3-carbonyl fluoride (199 mg, 0.768 mmol, 100% yield) as a pale yellow oil. The compound had an HPLC retention time=2.53 min. (methyl ester)-Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA.

reactant | 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylic acid | 0.766 mmol, 197 mg | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | pyridine | 0.919 mmol, 0.074 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 0.919 mmol, 0.078 mL | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-phenyl-4-(trifluoromethyl)isoxazole-3-carbonyl fluoride | 0.768 mmol, 199 mg, 100% yield | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)F)C(F)(F)F | C11H5F4NO2
